US07662810B2
1-benzyl-azetidine-3-ol
1-Benzyl-3-trimethylsilyloxy-azetidine (1.8 g, 7.65 mmol) prepared in preparation example 25 was dissolved in methanol (9 ml), sodium methoxide (826 mg, 15.29 mmol) was added thereto, and stirred at room temperature for 30 min. The solvent was removed by evaporation under a reduced pressure, and the residue was extracted using ethyl acetate. The organic extract layer was washed with water, dried over anhydrous magnesium sulfate, and concentrated under a reduced pressure, to obtain 0.964 g (yield: 77%) of the title compound.

reactant | 1-Benzyl-3-trimethylsilyloxy-azetidine | 7.65 mmol, 1.8 g | C(C1=CC=CC=C1)N1CC(C1)O[Si](C)(C)C | C13H21NOSi
reactant | sodium methoxide | 15.29 mmol, 826 mg | C[O-].[Na+]
solvent | methanol | 9 ml | CO | CH4O
product | 1-benzyl-azetidine-3-ol | 0.964 g, yield: 77% | C(C1=CC=CC=C1)N1CC(C1)O | C10H13NO
